US07723368B2
Step 2) 1-Fluoro-2-fluoromethyl-4-iodo-benzene
To a stirred solution of (2-Fluoro-5-iodo-phenyl)-methanol (1.0 g, 3.97 mmol) in dry methylene chloride (10 mL) at −78° C. and under a nitrogen atmosphere was added DAST (0.63 mL, 4.76 mmol). The cooling bath was removed and the mixture was warmed to room temperature for 1 h, and then quenched with sat sodium bicarbonate (4 mL). The mixture was partitioned between methylene chloride and H2O, and the aqueous layer was extracted with methylene chloride (2×10 mL). The organic layer was washed with brine and dried over MgSO4, filtered and concentrated in vacuo to a clear oil (0.999 g, 99%) and used directly in the next step.

reactant | (2-Fluoro-5-iodo-phenyl)-methanol | 3.97 mmol, 1.0 g | FC1=C(C=C(C=C1)I)CO | C7H6FIO
reactant | DAST | 4.76 mmol, 0.63 mL | CCN(CC)S(F)(F)F | C4H10F3NS
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | 1-Fluoro-2-fluoromethyl-4-iodo-benzene | FC1=C(C=C(C=C1)I)CF | C7H5F2I
